US05739342
1a. Preparation of 2,6-Dihydroxy -5-fluoro-3-cyanopyridine (1)
A 300 gallon reaction vessel was charged with 300 L of toluene, blanketed with nitrogen and 30.6 kg of sodium methoxide was added. This was followed by 62.6 kg of ethyl formate. The temperature was maintained below 30° C. Ethyl fluoroacetate, 30 kg, was added to the mixture. (Extreme caution must be used when working with ethyl fluoroacetate. Ethyl fluoroacetate is highly toxic). The ethyl formate and ethyl fluoroacetate were metered to maintain the temperature at about 30° C. The reaction mixture was allowed to stir for 3 to 5 hours and formed a suspension. The suspension was allowed to cool to 5°-10° C. and cyanoacetamide, 71.4 kg, was added. This formed a thick suspension which was diluted with about 300 L of methanol, allowed to warm to room temperature (about 20° C.) and stirred for an additional 12-16 hours. Glacial acetic acid, 35.6 L, and water, 200 L, were added to the suspension. The suspension was centrifuged to separate the product. The product was collected and dried. The title compound, M. W. 154.10, had a purity of 95%, by HPLC, and m.p. 135°-140° C.

reactant | sodium methoxide | 30.6 kg | C[O-].[Na+]
reactant | ethyl formate | 62.6 kg | C(=O)OCC | C3H6O2
reactant | Ethyl fluoroacetate | FCC(=O)OCC | C4H7FO2
reactant | cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
solvent | methanol | about 300 L | CO | CH4O
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | 300 L | C1(=CC=CC=C1)C | C7H8
product | 2,6-Dihydroxy -5-fluoro-3-cyanopyridine | OC1=NC(=C(C=C1C#N)F)O | C6H3FN2O2
